US05710122
2-Ethylhexanol (50.51 g, 0.384 mol) and pyridine (260 mL) are combined in a flask fired with a condenser, internal thermometer, mechanical stirrer and argon inlet. The solution is cooled to -5° C. and to it is added p-toluenesulfonyl chloride (89.63 g, 0.416 mol) in portions via Gooch tubing so as to maintain the reaction temperature -5°-5° C. After 3 h, water (40 mL) is added in portions so as to keep the temperature of the reaction below 5° C. The reaction mixture is warmed to room temperature and then poured into a separatory funnel containing 540 mL of ether. The layers are separated and the organic layer is washed with 5M H2SO4 (2×140 mL), saturated CuSO4 solution (140 mL), water (2×140 mL) and saturated NaHCO3 solution (140 mL). After drying over MgSO4, the organic layer is filtered, and concentrated to leave a light yellow liquid as 2-ethyhexanyl p-toluenesulfonate. Purity of the product is determined by thin layer chromatography and the structure confirmed by 1H and 13C NMR.

reactant | 2-Ethylhexanol | 0.384 mol, 50.51 g | C(C)C(CO)CCCC | C8H18O
reactant | pyridine | 260 mL | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 0.416 mol, 89.63 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | water | 40 mL | O | H2O
solvent | ether | 540 mL | CCOCC | C4H10O
product | 2-ethyhexanyl p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCC)CC)C | C15H24O3S
